simulator lang=spectre
global 0

ahdl_include "../submission/source_sample_hold.va"

Vclk (vclk 0) vsource type=pulse val0=0 val1=0.9 delay=5n period=10n width=4n rise=100p fall=100p
Vvin (vin 0) vsource type=pwl wave=[0 0.10 4n 0.20 14n 0.55 24n 0.30 34n 0.78 50n 0.40]
XDUT (vin vout vclk) source_sample_hold

tran tran stop=30n maxstep=50p
save vclk vin vout
